US06903120B2
4-(3-Trifluoromethylsulfonyl-phenyl)-pyridine
1-Bromo-3-trifluoromethylsulfonyl benzene (580 mg) and 4-pyridine-boronic acid (275 mg) was dissolved in toluene (5 ml) and abs EtOH (5 ml). To the mixture was then added Na2CO3 (424 mg) and Pd(PPh3)4 (119 mg) under an atmosphere of Argon. The resulting mixture was heated to 90° C. for 18 h. Then CH2Cl2 was added and the organic phase was washed with water and dried (MgSO4), filtered and evaporated to dryness. The residue was then used without any further purification. (MS m/z (rel. intensity, 70 eV) 287 (M+, 33), 218 (22), 154 (bp), 127 (56), 69 (27).

reactant | 1-Bromo-3-trifluoromethylsulfonyl benzene | 580 mg | BrC1=CC(=CC=C1)S(=O)(=O)C(F)(F)F | C7H4BrF3O2S
reactant | 4-pyridine-boronic acid | 275 mg | N1=CC=C(C=C1)B(O)O | C5H6BNO2
reactant | EtOH | 5 ml | CCO | C2H6O
reactant | Na2CO3 | 424 mg | C(=O)([O-])[O-].[Na+].[Na+]
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(PPh3)4 | 119 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 4-(3-Trifluoromethylsulfonyl-phenyl)-pyridine | FC(S(=O)(=O)C=1C=C(C=CC1)C1=CC=NC=C1)(F)F | C12H8F3NO2S
